US04341864
2-(1,1,3,3-tetramethyl-5-indanoxy)-butyryl chloride
A mixture of 100.5 g (0.364 mole) of 2-(1,1,3,3-tetramethyl-5-indanoxy)-butyric acid and 67 ml of thionyl chloride were refluxed for 2 hours. The excess thionyl chloride was evaporated.

reactant | 2-(1,1,3,3-tetramethyl-5-indanoxy)-butyric acid | 0.364 mole, 100.5 g | CC1(CC(C2=CC(=CC=C12)OC(C(=O)O)CC)(C)C)C | C17H24O3
reactant | thionyl chloride | 67 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(1,1,3,3-tetramethyl-5-indanoxy)-butyryl chloride | CC1(CC(C2=CC(=CC=C12)OC(C(=O)Cl)CC)(C)C)C | C17H23ClO2
